US05849920
2-Amino-3-chloro-6-methoxy-5-trifluoromethylpyridine
6.7 g (0.029 mol) of 2-amino-3,6-dichloro-5-trifluoromethylpyridine were added to a stirred mixture of 2.4 g (0.0377 mol) of 88% potassium hydroxide powder in 10 ml of methanol and 100 ml of dimethylformamide at 20° C. in the course of 5 minutes. The reaction mixture was now stirred for 89 hours at 130° C., with HPLC monitoring, a further 5 ml of methanol being added to the reaction mixture after 40 hours. After working-up in accordance with Example I.2., 0.3 g (4.6% of theory) of the title compound of ηD24 =1.5143 was obtained in fractions 3 and 4. Fraction 5 contained 0.7 g (10% of theory) of 2-amino-3-chloro-6-dimethylamino-5-trifluoromethylpyridine (NMR 400 MHz, CDCl3 7.58 (pyridine), 2.95 (CH3)2N) and fractions 9-16 contained 1.1 g (16% of theory) of starting material. Other secondary components were found in the fractions which followed.

reactant | 2-amino-3,6-dichloro-5-trifluoromethylpyridine | 0.029 mol, 6.7 g | NC1=NC(=C(C=C1Cl)C(F)(F)F)Cl | C6H3Cl2F3N2
reactant | potassium hydroxide | 0.0377 mol, 2.4 g | [OH-].[K+]
reactant | methanol | 10 ml | CO | CH4O
reactant | methanol | 5 ml | CO | CH4O
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 2-Amino-3-chloro-6-methoxy-5-trifluoromethylpyridine | NC1=NC(=C(C=C1Cl)C(F)(F)F)OC | C7H6ClF3N2O
